US05362878
6-Hydroxyquinoline was treated with sodium hydride and ethyl iodide to give 6-ethoxyquinoline. This material was nitrated, reduced and coupled with 2-hexylthiodecanoic acid according to the procedure of Example 33 to give the title compound.

reactant | 6-Hydroxyquinoline | OC=1C=C2C=CC=NC2=CC1 | C9H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl iodide | C(C)I | C2H5I
product | 6-ethoxyquinoline | C(C)OC=1C=C2C=CC=NC2=CC1 | C11H11NO
